US09388189B2
a) 4,6-Dichloro-N-(2-methoxyphenyl)pyrimidine-5-carboxamide
4,6-Dichloropyrimidine-5-carbonyl chloride (587 mg, 2.78 mmol, prepared according to E. V. Tarasov et al. Synlett 2000, 5, 625-626) was dissolved in dichloromethane (2.5 ml) and TEA (400 μl, 2.87 mmol) was added. To this solution, 2-methoxyaniline (340 mg, 2.76 mmol) in 3 ml DCM was added dropwise and the mixture was stirred for 30 min at room temperature. The reaction mixture was then diluted with dichloromethane, washed with 4% sodium bicarbonate solution, dried over magnesium sulphate, filtered and evaporated. After evaporation of the solvent, the residue was purified by flash chromatography using SP1® Purification System (10% to 40%, hexane-ethyl acetate) to obtain 630 mg (77% yield) of the title compound.

reactant | 4,6-Dichloropyrimidine-5-carbonyl chloride | 2.78 mmol, 587 mg | ClC1=NC=NC(=C1C(=O)Cl)Cl | C5HCl3N2O
reactant | 2-methoxyaniline | 2.76 mmol, 340 mg | COC1=C(N)C=CC=C1 | C7H9NO
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 4,6-Dichloro-N-(2-methoxyphenyl)pyrimidine-5-carboxamide | 630 mg, 77% yield | ClC1=NC=NC(=C1C(=O)NC1=C(C=CC=C1)OC)Cl | C12H9Cl2N3O2
